US07855201B2
Step 2: (±)-2-[(3-Bromo-6,7,8,9-tetrahydro-5H-benzo[7]annulen-5-yl)oxy]tetrahydro-2H-pyran
A mixture of 1.88 g (7.8 mmol) of (±)-3-bromo-6,7,8,9-tetrahydro-5H-benzo[7]annulen-5-ol, 1.07 mL (11.7 mmol, 1.5 equiv) of 3,4-dihydro-2H-pyran, and 0.20 g (0.80 mmol, 0.1 equiv) of pyridinium p-toluenesulfonate in 38 mL of methylene chloride was stirred under nitrogen at ambient temperature overnight. The mixture was diluted with 115 mL of ether, washed with 45 mL of half-saturated sodium chloride solution, dried over sodium sulfate, filtered, and concentrated to give 2.8 g of a cloudy oil. Purification by flash chromatography (5-30% ethyl acetate in hexanes) gave the product as a colorless oil. MS (m+1)=327.0; 1H NMR (400 MHz, CDCl3) 7.68 (s, 0.5H), 7.39 (d, 0.5H, J 2 Hz), 7.25 (m, 1H), 6.95 (m, 1H), 4.90 (t, 0.5H, J 3 Hz), 4.80 (m, 1H), 4.48 (t, 0.5H, J 3 Hz), 3.95 (m, 0.5H), 3.67 (m, 0.5H), 3.52 (m, 0.5H), 3.42 (m, 0.5H), 2.85 (m, 1H), 2.67 (m, 1H), 2.10-1.83 (m, 3.5H), 1.82-1.52 (m, 8H), 1.43 (m, 0.5H).

reactant | (±)-3-bromo-6,7,8,9-tetrahydro-5H-benzo[7]annulen-5-ol | 7.8 mmol, 1.88 g | BrC1=CC2=C(CCCCC2O)C=C1 | C11H13BrO
reactant | 3,4-dihydro-2H-pyran | 11.7 mmol, 1.07 mL, 1.5 equiv | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 0.80 mmol, 0.20 g, 0.1 equiv | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | methylene chloride | 38 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 115 mL | CCOCC | C4H10O
product | (±)-2-[(3-Bromo-6,7,8,9-tetrahydro-5H-benzo[7]annulen-5-yl)oxy]tetrahydro-2H-pyran | BrC1=CC2=C(CCCCC2OC2OCCCC2)C=C1 | C16H21BrO2
